US06825181B1
Step 1: Synthesis of t-butyl [2-(1-amino-6-iodoisoquinoline-7-yloxy)ethyl]carbamate:
10.4 g (26.7 mmol) of benzyl-(6-iodo-7-methoxyisoquinoline-1-yl)amine was dissolved in a mixture of 8 ml of acetic acid and 40 ml of hydrobromic acid, and the obtained solution was stirred at 140° C. overnight. The solvent was evaporated, and the residue was dissolved in 50 ml of DMF. 14.6 g (65.2 mmol) of t-butyl (2-chloroethyl)carbamate and 4.95 g (163 mmol) of potassium carbonate were added to the obtained solution, and they were stirred at 70° C. overnight. After the treatment with dichloromethane as the extraction solvent in an ordinary manner, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | benzyl-(6-iodo-7-methoxyisoquinoline-1-yl)amine | 26.7 mmol, 10.4 g | C(C1=CC=CC=C1)NC1=NC=CC2=CC(=C(C=C12)OC)I | C17H15IN2O
reactant | t-butyl (2-chloroethyl)carbamate | 65.2 mmol, 14.6 g | ClCCNC(OC(C)(C)C)=O | C7H14ClNO2
reactant | potassium carbonate | 163 mmol, 4.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | hydrobromic acid | 40 ml | Br | BrH
product | t-butyl [2-(1-amino-6-iodoisoquinoline-7-yloxy)ethyl]carbamate | NC1=NC=CC2=CC(=C(C=C12)OCCNC(OC(C)(C)C)=O)I | C16H20IN3O3
